US04227014
A solution of 5 g. of 2-cyclopentylethyl methanesulfonate and 8.59 g. of ethyl p-aminobenzoate in 30 ml. of hexamethylphosphoramide is stirred at 110° C. under argon atmosphere for 18 hours. The cooled solution is diluted with 30 ml. of water and the resulting tan solid is collected by filtration. Recrystallization from ethanol-water furnishes ethyl p-[2-(cyclopentyl)ethyl]aminobenzoate as off-white crystals.

reactant | 2-cyclopentylethyl methanesulfonate | CS(=O)(=O)OCCC1CCCC1 | C8H16O3S
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl p-[2-(cyclopentyl)ethyl]aminobenzoate | C1(CCCC1)CCNC1=CC=C(C(=O)OCC)C=C1 | C16H23NO2
